US07347954B2
Next, 8.2 g of the 2-methoxyethyldiethylamine was dissolved in 10 mL of tetrahydrofuran (Wako Pure Chemical Industries), then 4.0 mL of methyl iodide (Wako Pure Chemical Industries) was added under ice cooling. After 30 minutes, the mixture was removed from the ice bath and stirred overnight at room temperature. The solvent in this reaction solution was subsequently driven off by vacuum distillation, and the resulting solids were recrystallized from an ethanol (Wako Pure Chemical Industries)—tetrahydrofuran system, yielding 16 g of 2-methoxyethyldiethylmethylammonium iodide.

reactant | 2-methoxyethyldiethylamine | 8.2 g | COCCN(CC)CC | C7H17NO
reactant | methyl iodide | 4.0 mL | CI | CH3I
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-methoxyethyldiethylmethylammonium iodide | 16 g | [I-].COCC[N+](C)(CC)CC | InChI=1S/C8H20NO.HI/c1-5-9(3,6-2)7-8-10-4;/h5-8H2,1-4H3;1H/q+1;/p-1
